US06974802B2
To a mixture of 2-(N-CBz-L-valyloxy)-ethanol (12. 0 g, 40.6 mmol) and pyridine (19.7 mL, 0.24 mmol) in CH2Cl2 (300 mL) at 0° C., was added dropwise chloromethyl chloroformate (10.5 g, 81.2 mmol). After 30 min at 0° C., the reaction mixture was washed with H2O (200 mL). The H2O phase was washed with CH2Cl2 (100 mL) and the solvent of the combined organic phases was removed under reduced pressure. The crude product was column chromatographed (silica gel, 0.5→1% MeOH in CH2Cl2), to give 8.26 g 2-(N-CBz-L-valyloxy)-ethyl chloromethyl carbonate.

reactant | 2-(N-CBz-L-valyloxy)-ethanol | 40.6 mmol, 0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCCO | C15H21NO5
reactant | chloromethyl chloroformate | 81.2 mmol, 10.5 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 0.24 mmol, 19.7 mL | N1=CC=CC=C1 | C5H5N
product | 2-(N-CBz-L-valyloxy)-ethyl chloromethyl carbonate | 8.26 g | C(OCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(OCCl)=O | C17H22ClNO7
